US05411955
6-Benzyl-5,6-dihydro-4-hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-1,1-dioxo-2H- 1,2,6-thiadiazine-3-carboxamide
The synthesis is effected analogously to Example 1 using in each case 1 equivalent of methyl 6-benzyl-5,6-dihydro-4-hydroxy-2-methyl-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxylate and 3-amino-5-methylisoxazole. Chromatography over silica gel using a mixture of diisopropyl ether/formic acid=100/1 or recrystallisation from a diisopropyl ether/acetone mixture gives the title compound in a yield of 59%.

reactant | methyl 6-benzyl-5,6-dihydro-4-hydroxy-2-methyl-1,1-dioxo-2H-1,2,6-thiadiazine-3-carboxylate | 1 equivalent | C(C1=CC=CC=C1)N1CC(=C(N(S1(=O)=O)C)C(=O)OC)O | C13H16N2O5S
reactant | 3-amino-5-methylisoxazole | NC1=NOC(=C1)C | C4H6N2O
reactant | diisopropyl ether formic acid | C(C)(C)OC(C)C.C(=O)O
reactant | diisopropyl ether acetone | C(C)(C)OC(C)C.CC(=O)C
product | 6-Benzyl-5,6-dihydro-4-hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-1,1-dioxo-2H- 1,2,6-thiadiazine-3-carboxamide | yield of 59% | C(C1=CC=CC=C1)N1CC(=C(N(S1(=O)=O)C)C(=O)NC1=NOC(=C1)C)O | C16H18N4O5S
